2184-04-21 10:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure--Hypoxemic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight-->
   Pt with saturations continued to be >90% on supplemental oxygen
   overnight
   This morning patient with ABG-->
   7.4/48/78 on NRB mask
   He now has had worsening hypoxemia and was started on NIV with BIPAP
   started with persistent hypoxemia
   24 Hour Events:
 PICC LINE - START [**2184-4-21**] 12:00 AM
 EKG - At [**2184-4-21**] 01:23 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-21**] 08:00 AM
   Vancomycin - [**2184-4-21**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2184-4-21**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 72 (71 - 126) bpm
   BP: 113/55(69) {113/55(69) - 126/89(95)} mmHg
   RR: 22 (22 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                     10 mL
                                                                  1,576 mL
   PO:
             TF:
   IVF:
                                                                     10 mL
                                                                  1,576 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    275 mL
   Urine:
   275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     10 mL
                                                                  1,301 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.44/48/77.[**Numeric Identifier 253**]/27/6
   PaO2 / FiO2: 82
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Percussion:
   Dullness : ), (Breath Sounds: Crackles : , Wheezes : , Absent : right,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   556 K/uL
   196 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   23 mg/dL
   100 mEq/L
   139 mEq/L
   35.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2184-4-21**]  12:13 AM
                             [**2184-4-21**]  04:46 AM
                             [**2184-4-21**]  08:10 AM
   WBC
   10.5
   Hct
   35.9
   Plt
   556
   Cr
   0.7
   TCO2
   29
   34
   Glucose
   196
   Other labs: Lactic Acid:1.9 mmol/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Fluid analysis / Other labs: 7.49/37/60
   Imaging: CXR--LLL infiltrarte with some areas of consolidation medially
   and predominantly alveolar filling process concerning for pneumonia
   Assessment and Plan
   74 yo male with recent pneumonectomy for SCCA in the setting of a
   history of COPD and now admitted with progressive respiratory distress
   in the setting of cough and worsening dyspnea.  CXR at rehab concerning
   for PNA and ABX started 2 days ago following Rx of Vanco/Zosyn.  He had
   significant and persistent respiratory distress in the setting of A-fib
   and has maintained tachycardia despite continued ABX, nebs and
   supplemental O2 support.  He required BIPAP support for persistent and
   worsening hypoxemia this morning.
   1)Respiratory Failure-Patient with COPD, pneumonectomy and reasonable
   clinical history and CXR findings to suggest PNA.  Certainly metastatic
   involvement and lymphagiocarcinomatosis is possible but given acute
   changes will likely be rapid onset of changes consistent with acute
   infectious process.
   -Will continue with non-invasive ventilatory support
   -Vanco/Zosyn
   -Follow up sputum cultures
   -Will continue with Solumedrol but COPD flare does not appear to be
   dominant pathology here and will have to evaluate change and tolerance
   on ventilator given nl PCO2 and exam
   2)Atrial Fibrillation-
   -Continue Amiodarone
   -Continue with B-blocker
   -F/U ECG post intubation
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   PICC Line - [**2184-4-21**] 12:00 AM
   18 Gauge - [**2184-4-21**] 12:00 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: Not Indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 45

2184-04-22 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - intubated on assist control ventilation overnight
   - CTA (prelim): no PE; LLL pna vs aspiration pneumonitis; emphysematous
   changes
   - A-line: could not be placed after numerous attempts
   - blood/sputum cx: NGTD
   - CXR (and shoulder film): Left PICC line terminating at the level of
   the left proximal humeral shaft. It enters in the antecubital fossa,
   and there is no evidence of coiling or kinking along the course.
   - continued vanc/Zosyn
   - bolused with 4L IVF d/t hypotension (believed d/t sepsis) SBP 80s -->
   up to 90s
   - changed propofol to fentanyl/midazolam d/t hypotension
   - [**Hospital 858**] rehab: bcx [**4-19**]- no growth; spucx [**4-19**]- nl resp flora
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-21**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-21**] 07:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-22**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.2
C (95.3
   HR: 69 (61 - 115) bpm
   BP: 86/44(54) {79/44(54) - 126/84(101)} mmHg
   RR: 22 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  4,289 mL
                                                                  1,589 mL
   PO:
             TF:
   IVF:
                                                                  4,289 mL
                                                                  1,589 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    110 mL
   Urine:
                                                                  1,030 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,259 mL
                                                                  1,479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 22.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/48/77.[**Numeric Identifier 253**]//6
   Ve: 7.7 L/min
   PaO2 / FiO2: 111
   Physical Examination
   General: intubated, sedated
   Lungs: absent breath sounds on right, coarse breath throughout left
   lung field
   Heart: distant S1,S2. RRR.
   Abdomen: soft and non-tender
   Labs / Radiology
   556 K/uL
   11.8 g/dL
   196 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   23 mg/dL
   100 mEq/L
   139 mEq/L
   35.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2184-4-21**]  12:13 AM
                             [**2184-4-21**]  04:46 AM
                             [**2184-4-21**]  08:10 AM
   WBC
   10.5
   Hct
   35.9
   Plt
   556
   Cr
   0.7
   TCO2
   29
   34
   Glucose
   196
   Other labs: Lactic Acid:1.9 mmol/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   74 yo M with COPD, s/p right pneumonectomy with increasing dyspnea and
   worsening O2 requirement who was found to have a LLL consolidation at
   rehab and was admitted to ICU for hypoxemia requiring NRB, now with
   findings on CTA concerning for air leak into the right chest.
   Hypoxemia/respiratory distress: patient with poor reserve given recent
   right pneumonectomy and underlying mild COPD.  Given clinical picture
   and images, likely pneumonia with evolving sepsis.  With recent
   hospitalizations and rehab stay will need to treat empirically for
   HAP.  Also on differential is COPD flair, PE, cong heart failure and
   mucous plugging/atelectasis. CTA negative for PE but concerning for
   leak into right chest (post-operative dehiscence of right mainstem
   closure?).
   -continue Vanc/Zosyn for HAP, broaden for atypicals with azithromycin
   -standing nebs
   -stop steroids
   -infectious work-up with sputum bacterial and viral cultures, urine
   legionella
   -establish arterial access
   -thoracics consult to evaluate right chest air leak, consider
   bronchoscopy
   -decrease PEEP as tolerated, may increase tidal volume to allow for
   better ventilation
   -repeat ABG later this morning
   # Hypotension: received 4L overnight, still hypotensive. Concern of
   evolving sepsis versus impaired cardiac output due to elevated
   intrathoracic pressure from possible bronchial leak
   -thoracics consult as above
   -establish central venous access and start Levophed
   -continue to bolus with IVF for goal MAP >60
   # Acute renal failure: likely prerenal in setting of sepsis, decreased
   renal perfusion
   -check urine electrolytes
   -renal consult
   -IVF as above
   -treat hyperkalemia with insulin, dextrose, and kayexalate
   # Elevated INR:
   -will send for DIC panel, also check liver enzymes
   # COPD: possible flair but unlikely (see above).  No known PFTs.
   Patient recieved solu-medrol in ED.  On solmederol at home.
   -stop steroids today
   -nebs standing and PRN
   # A-Fib: recent dx per patient.  Possibly occurring in peri-op time.
   Patient on amiodarone 200mg until [**5-2**].  Also on metoprolol 37.5.
   -holding metoprolol due to hypotension
   -hold anticoagulation for now
   # Lung Ca: Recent Dx of squameous cell lung cancer.  Unclear if disease
   metastatic.  Patient coping well with Dx.  Nothing to do for now.
   Continue outpatient work up.
   # FEN
 NPO for now; consider OGT after above issues are addressed
   # Access
 left midline, PIV x2, need for CVL and a-line today
   # PPx -
   -DVT ppx with SQ lovenox
   -Bowel regimen
   # Code - full code
   # Dispo
 pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-4-21**] 12:00 AM
   18 Gauge - [**2184-4-21**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:

2184-04-22 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2184-4-21**] 11:08 AM
   -Patient with persistent hypoxmia and worsening hypercarbid failure
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-4-22**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-22**] 08:04 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 7.5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2184-4-22**] 09:45 AM
   Insulin - Regular - [**2184-4-22**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-22**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 72 (61 - 115) bpm
   BP: 85/41(51) {64/39(44) - 122/84(101)} mmHg
   RR: 23 (0 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  4,289 mL
                                                                  4,617 mL
   PO:
             TF:
   IVF:
                                                                  4,289 mL
                                                                  4,567 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    145 mL
   Urine:
                                                                  1,030 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,259 mL
                                                                  4,472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 106.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.03/101/40/25/-8
   Ve: 8.7 L/min
   PaO2 / FiO2: 40
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   518 K/uL
   292 mg/dL
   2.2 mg/dL
   25 mEq/L
   5.9 mEq/L
   36 mg/dL
   109 mEq/L
   142 mEq/L
   35.9 %
   14.6 K/uL
        [image002.jpg]
                             [**2184-4-21**]  12:13 AM
                             [**2184-4-21**]  04:46 AM
                             [**2184-4-21**]  08:10 AM
                             [**2184-4-22**]  04:30 AM
                             [**2184-4-22**]  08:48 AM
                             [**2184-4-22**]  09:07 AM
                             [**2184-4-22**]  09:26 AM
   WBC
   10.5
   14.6
   Hct
   35.9
   35.9
   Plt
   556
   518
   Cr
   0.7
   2.1
   2.2
   TCO2
   29
   34
   27
   29
   Glucose
   196
   134
   292
   Other labs: PT / PTT / INR:20.8/35.4/2.0, CK / CKMB / Troponin-T:104//,
   Lactic Acid:1.4 mmol/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:8.2 mg/dL
   Fluid analysis / Other labs: 7.03/94/63
   Imaging: CXR--Patient with left sided lower lobe infiltrates noted on
   morning film.  In addition patient with suggestion of air in right
   chest which is new.  Minimal evidence for evolution of significant
   pulmonary edema.
   CTA-Confirming large cavity with air-fluid level in right chest.
   Extensive emphysema and GGO in left lung at base and with some areas of
   confluent opacity.
   Assessment and Plan
   74 yo male with h/o COPD and also pneumonectomy now presenting with
   multfocal PNA in remaining lung.  His initial presentation was one of
   progressive respiratory distress and subsequent respiratory failure
   with both COPD, impaired baseline function and multifocal PNA driving
   respiratory failure.  Of note he also has had signficiant hypotension
   which is secondary to significant impairment in right sided heart
   function as well as progression of pneumonia to septic shock despite 5
   liters IVF fluid resuscitation.  Patient has had substantial
   detrioration across the night
likely representing a worsening of
   ventilation in the setting of multifocal PNA and severe COPD and with
   severe respiratory acidosis.  In addition patient has had worsening
   hypotension which appears to be a manifestation of evolving sepsis
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-
   -Pneumonia
will continue with Vanco/Zosyn, will send sputum culture and
   viral cultures
inculding influenze and given concern for possible
   atypical bacterial organisms including Mycoplasma and Chlamydia.  Will
   need to consider bronch to eval significant air leak into right chest
   and if performed or unable to get a sample
will need to stabilize
   ventilation as possible
   -COPD-Resistance and compliance to this point do appear to be
   reasonable, wheezing is minimal so will D/C systemic steroids at this
   point given minimal evidence of significant and persistent
   bronchospasm.
   -Hypercarbia
have moved to RR at 24-28 which appears maximum and based
   on ABG will need to consider further increase in Vt from 320
360 if
   needed
   -Hypoxemia
Will have to decrease PEEP as close to 0 as tolerated with
   evidence of significant air leak into right chest.  Will maintain FIO2
   at 1.0 to allow some adequate oxygenation
   -Needs A-line now and will work with anesthesia to maintain placement.
   2)Sepsis-Likely secondary to significant pulmonary infection with
   systemic insult now evolving across time despite ABX and Fluids given.
    Now with pressors started and will move to central pressors and CVP
   measurements.
   -CVP goal to be driven by findings and consistent with right heart
   failure
   -Pressors to change to Levophed
   -Will continue ABX
   -Will need to address all sources of infection including right chest
   and
   -Will check for DIC labs now
   2.5)Pleural Space Infection/Air fluid level-
   -Likely wound dehisence from right mainstem closure.  Will need to
   evaluate and treat ASAP with visualization.
   -Minimze PEEP
   -Thoracic Surgery Consultation for urgent evaluation
   3)Acute Renal Failure-This is likely related to significant ATN from
   sepsis and a significant component of pre-renal azotemia.
   -Will continue with volume and BP support
   -Will check FENa to confirm
   -Will need to check urine for muddy brown casts
   -Consider renal consult for CVVH if worsening volume
   status/hyperkalemia all seen
   4)A-Fib-
   Amiodarone
   -Will hold anticoagulation
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines: CVL Placed this morning
will need A-line now
   PICC Line - [**2184-4-21**] 12:00 AM
   18 Gauge - [**2184-4-21**] 12:00 AM
   Prophylaxis:
   DVT: LMW Heparin
will hold until procedures complete
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Will need full update provided to family
   (son==contact) given significant and acute decline in past 12 hours
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2184-04-23 09:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**4-22**]:
   - R Brachial A-line placed, started on levophed
   - CT chest with large R air-fluid cavity -> PEEP decreased to 4,
   Thoracics consulted. Chest tube placed with 1L drained of exudative
   fluid. Bronch'd with thick secretions from L side (?PNA), no evidence
   of large hole or chest tube leak with positive pressure. Lavage (sent
   for micro). Hypoxia after lavage to 88%, improved to 98% with left side
   down. Vent settings adjustments: Vt and FiO2 increased, PEEP decreased
   to 3.
   - Hypotensive s/p bronch; levophed increased to 0.4 w/ stabilization of
   BP. Able to titrate down to 0.3 as MAPs in 60s-70s.
   - Subsegmental PE in LUL, started on heparin gtt.
   - Family meeting: confirmed full code
   [- LFTs elevated: ?shock liver
   - Urine eos negative, no hydro on prelim renal US]
   -----------------
   [**4-23**]
   - Recheck Vanc trough
   - Tube feeds started
   - Hct drop
   - F/u ABG
   - F/u renal US final read
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2184-4-22**] 01:00 PM
   Vancomycin - [**2184-4-22**] 07:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-23**] 08:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,400 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Dextrose 50% - [**2184-4-22**] 09:45 AM
   Insulin - Regular - [**2184-4-22**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-23**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 94 (74 - 142) bpm
   BP: 96/58(72) {81/47(65) - 115/77(90)} mmHg
   RR: 22 (10 - 42) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 16 (7 - 18)mmHg
   Total In:
                                                                  6,433 mL
                                                                  1,829 mL
   PO:
   TF:
   IVF:
                                                                  6,143 mL
                                                                  1,769 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    321 mL
   Urine:
                                                                    355 mL
                                                                     51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,128 mL
                                                                  1,508 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (320 - 400) mL
   Vt (Spontaneous): 581 (581 - 581) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 89%
   ABG: 7.26/45/59/19/-6
   Ve: 12.4 L/min
   PaO2 / FiO2: 59
   Physical Examination
   General: intubated, sedated
   Lungs: absent breath sounds on right, coarse breath throughout left
   lung field
   Heart: distant S1,S2. RRR.
   Abdomen: soft and non-tender
   Labs / Radiology
   285 K/uL
   11.0 g/dL
   198 mg/dL
   3.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   52 mg/dL
   110 mEq/L
   144 mEq/L
   32.8 %
   20.1 K/uL
        [image002.jpg]
                             [**2184-4-22**]  12:25 PM
                             [**2184-4-22**]  03:15 PM
                             [**2184-4-22**]  06:07 PM
                             [**2184-4-22**]  06:15 PM
                             [**2184-4-22**]  08:45 PM
                             [**2184-4-22**]  11:35 PM
                             [**2184-4-23**]  03:13 AM
                             [**2184-4-23**]  03:24 AM
                             [**2184-4-23**]  05:38 AM
                             [**2184-4-23**]  05:55 AM
   WBC
   17.5
   20.1
   Hct
   36.0
   32.8
   Plt
   374
   285
   Cr
   2.9
   3.7
   TropT
   0.10
   TCO2
   24
   22
   22
   20
   20
   22
   21
   Glucose
   246
   198
   Other labs: PT / PTT / INR:30.2/63.6/3.1, CK / CKMB /
   Troponin-T:152/5/0.10, ALT / AST:5229/6721, Alk Phos / T Bili:98/1.6,
   Differential-Neuts:93.9 %, Lymph:2.0 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:[**Numeric Identifier 6090**] ng/mL, Fibrinogen:348 mg/dL, Lactic Acid:2.8 mmol/L,
   LDH:4205 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   74 yo M with COPD, s/p right pneumonectomy with increasing dyspnea and
   worsening O2 requirement who was found to have a LLL consolidation at
   rehab and was admitted to ICU for hypoxemia requiring NRB, now with
   findings on CTA concerning for air leak into the right chest.
   Hypoxemia/respiratory distress: patient with poor reserve given recent
   right pneumonectomy and underlying mild COPD.  Given clinical picture
   and images, likely pneumonia with evolving sepsis.  With recent
   hospitalizations and rehab stay will need to treat empirically for
   HAP.  Also on differential is COPD flair, PE, cong heart failure and
   mucous plugging/atelectasis. CTA negative for PE but concerning for
   leak into right chest (post-operative dehiscence of right mainstem
   closure?).
   -continue Vanc/Zosyn for HAP, broaden for atypicals with azithromycin
   -standing nebs
   -stop steroids
   -infectious work-up with sputum bacterial and viral cultures, urine
   legionella
   -establish arterial access
   -thoracics consult to evaluate right chest air leak, consider
   bronchoscopy
   -decrease PEEP as tolerated, may increase tidal volume to allow for
   better ventilation
   -repeat ABG later this morning
   # Hypotension: received 4L overnight, still hypotensive. Concern of
   evolving sepsis versus impaired cardiac output due to elevated
   intrathoracic pressure from possible bronchial leak
   -thoracics consult as above
   -establish central venous access and start Levophed
   -continue to bolus with IVF for goal MAP >60
   # Acute renal failure: likely prerenal in setting of sepsis, decreased
   renal perfusion
   -check urine electrolytes
   -renal consult
   -IVF as above
   -treat hyperkalemia with insulin, dextrose, and kayexalate
   # Elevated INR:
   -will send for DIC panel, also check liver enzymes
   # COPD: possible flair but unlikely (see above).  No known PFTs.
   Patient recieved solu-medrol in ED.  On solmederol at home.
   -stop steroids today
   -nebs standing and PRN
   # A-Fib: recent dx per patient.  Possibly occurring in peri-op time.
   Patient on amiodarone 200mg until [**5-2**].  Also on metoprolol 37.5.
   -holding metoprolol due to hypotension
   -hold anticoagulation for now
   # Lung Ca: Recent Dx of squameous cell lung cancer.  Unclear if disease
   metastatic.  Patient coping well with Dx.  Nothing to do for now.
   Continue outpatient work up.
   # FEN
 NPO for now; consider OGT after above issues are addressed
   # Access
 left midline, PIV x2, need for CVL and a-line today
   # PPx -
   -DVT ppx with SQ lovenox
   -Bowel regimen
   # Code - full code
   # Dispo
 pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-4-21**] 12:00 AM
   Midline - [**2184-4-22**] 03:00 AM
   Multi Lumen - [**2184-4-22**] 11:24 AM
   Arterial Line - [**2184-4-22**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:

2184-04-23 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   PE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   A-line placed
   Severe Hypercarbic Failure
   No obvious defect in stump
   Thick secretions suctioned from left lung
   CVL placed and Levophed started
   CT scan final read with 80% confidence of sub-segmental PE-_Heparin
   started
   Levophed weaned
   A-Fib with RVR seen with associated hypotension and phenylephrine
   started wtih some improvement in HR and BP
   24 Hour Events:
 MULTI LUMEN - START [**2184-4-22**] 11:24 AM
 PICC LINE - STOP [**2184-4-22**] 12:15 PM
 CHEST TUBE PLACED - At [**2184-4-22**] 12:55 PM
   right chest tube placed at bedside. Time out performed by myself and
   Dr. [**Last Name (STitle) 2070**].
 ARTERIAL LINE - START [**2184-4-22**] 01:24 PM
 ULTRASOUND - At [**2184-4-22**] 03:00 PM
   renal US
 ULTRASOUND - At [**2184-4-22**] 09:30 PM
   LENI's
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2184-4-22**] 01:00 PM
   Vancomycin - [**2184-4-22**] 07:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-4-23**] 08:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Heparin Sodium - 1,400 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Amiodarone - 1 mg/min
   Phenylephrine - 5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2184-4-23**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 90 (76 - 142) bpm
   BP: 87/56(68) {71/47(58) - 115/77(90)} mmHg
   RR: 30 (10 - 42) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 16 (7 - 18)mmHg
   Total In:
                                                                  6,433 mL
                                                                  2,167 mL
   PO:
   TF:
   IVF:
                                                                  6,143 mL
                                                                  2,107 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    321 mL
   Urine:
                                                                    355 mL
                                                                     51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,128 mL
                                                                  1,846 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 400) mL
   Vt (Spontaneous): 581 (581 - 581) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 92%
   ABG: 7.18/46/53/19/-10
   Ve: 12.4 L/min
   PaO2 / FiO2: 53
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   285 K/uL
   198 mg/dL
   3.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   52 mg/dL
   110 mEq/L
   144 mEq/L
   33
   20.1 K/uL
        [image002.jpg]
                             [**2184-4-22**]  03:15 PM
                             [**2184-4-22**]  06:07 PM
                             [**2184-4-22**]  06:15 PM
                             [**2184-4-22**]  08:45 PM
                             [**2184-4-22**]  11:35 PM
                             [**2184-4-23**]  03:13 AM
                             [**2184-4-23**]  03:24 AM
                             [**2184-4-23**]  05:38 AM
                             [**2184-4-23**]  05:55 AM
                             [**2184-4-23**]  09:00 AM
   WBC
   17.5
   20.1
   Hct
   36.0
   32.8
   33
   Plt
   374
   285
   Cr
   2.9
   3.7
   TropT
   0.10
   TCO2
   22
   22
   20
   20
   22
   21
   18
   Glucose
   246
   198
   Other labs: PT / PTT / INR:30.2/63.6/3.1, CK / CKMB /
   Troponin-T:152/5/0.10, ALT / AST:5229/6721, Alk Phos / T Bili:98/1.6,
   Differential-Neuts:93.9 %, Lymph:2.0 %, Mono:3.7 %, Eos:0.2 %,
   D-dimer:[**Numeric Identifier 6090**] ng/mL, Fibrinogen:348 mg/dL, Lactic Acid:3.6 mmol/L,
   LDH:4205 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.7 mg/dL
   Imaging: CXR-
   Assessment and Plan
   74 yo male with h/o lung cancer and s/p right pneumonectomy and with
   severe COPD who has significant multi-lobar PNA in the left lung
   leading to respiratory failure and sepsis.  This is complicated by PE,
   Right heart compromise, Atrial Fibrillation, pneumothorax in right
   pneumonectomy space and acute renal failure. Importantly he has had
   conservative ventilation strategy with some improvement in ventilation
   but has had worsening and refractory hypoxemia.  This may be a
   manifestation of worsening impact from pneumonia and lung injury
   despite low Vt ventilation and PEEP optimization in the setting of leak
   into right chest.   By problem will-->
   1)Respiratory Failure
   PNA-_Vancomycin/Zosyn
Change to Meropenem empirically this morning
   COPD--Alb/Atrovent to contiue
   He has ongoing drainage from chest tube but minimal evidence of ongoing
   brisk air leak based upon no air leak in tube an full return volume
   seen.
   Collapse
CXR shows a strong suggestion of LLL consolidation and
   collapse based on CXR and this would be the likely primary driver of
   his worsening hypoxemia with PE less likely.
   PEEP
will increase in the absence of ongoing leak and severe
   hypoxemia
Increase PEEP to 10
   2)Sepsis/Shock-_Despite volume and pressors patient has clear worsening
   of tissue hypo-perfusion with elevations in lactate seen.  This is
   likely sepsis/hypovolemic and cardiogenic at the onset with right heart
   failure
   -Levophed/Vasopressin/Phenylephrine
   -HYdrocortisone IV started for hypotension as empiric intervention with
   refractory shock.
   -Volume replete
CVP at 16
   -Will trial fluild bolus only if refractory to pressors
as he has
   anuria, elevated CVP
   -Are working to control impact of A-fib and impact of PE with Rx as
   below
   -Will repeat blood cultures at this time despite no fevers noted
   3)Acute Renal Failure-_Creatinine continues to rise-this is combination
   of ATN and pre-renal source of failure.  This has persisted and is
   worsening.
   -Continue to support as above
   -No acute need for dialysis but volume overload may be at issue
   4)Pulmonary Embolism-Seen on CT, concern for DVT on right and risk of
   recurrent PE is overwhelming risk of death and heparin started in that
   setting.
   -Heparin to continue
   -Need to F/U on final read of LENI which prelim suggested DVT
   5)Atrial Fibrillation-
   -Will continue with Amiodarone
   -Is incidentally on IV Heparin
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-4-21**] 12:00 AM
   Midline - [**2184-4-22**] 03:00 AM
   Multi Lumen - [**2184-4-22**] 11:24 AM
   Arterial Line - [**2184-4-22**] 01:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed with family in detal throughout
   hospital course
at this time patient has severe and progressive
   multi-organ system failure.  This has progressed despite ongoing
   maximal medical therapy in the setting of pre-existing severe
   compromise in function with COPD and pneumonectomy.  Patient wishes as
   expressed are for continued full measures for treatment should there be
   a reasonable expectation of meaningful recovery which has been defined
   as return to independent living status.  Given overwhelming progression
   of multi-organ system failure despite optimal medical interventions
   this recovery would not appear to be reasaonable to expect.  This will
   be shared with family.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes